US04556733
A process comprising (1) contacting 2,4-dichlorophenol with at least 4 equivalents of chlorosulfonic acid and 0-2 equivalents of thionyl chloride, quenching the reaction product in water at 0°-60° C. to form 2-hydroxy-3,5-dichlorobenzenesulfonyl chloride, and optionally adding a chlorocarbon solvent, (2) contacting the sulfonyl chloride from (1) with at least 3 equivalents of aqueous ammonia or anhydrous ammonia at -5° to 25° C. to form 2-hydroxy-3,5-dichlorobenzenesulfonamide and (3) dehalogenating the sulfonamide by contacting the reaction product from (2) with hydrogen, in a solvent, in the presence of at least two equivalents of a base and a catalyst at a pressure of at least one atmosphere.

reactant | 2,4-dichlorophenol | ClC1=C(C=CC(=C1)Cl)O | C6H4Cl2O
reactant | chlorosulfonic acid | at least 4 equivalents | ClS(=O)(=O)O | ClHO3S
reactant | thionyl chloride | 0-2 equivalents | S(=O)(Cl)Cl | Cl2OS
product | 2-hydroxy-3,5-dichlorobenzenesulfonyl chloride | OC1=C(C=C(C=C1Cl)Cl)S(=O)(=O)Cl | C6H3Cl3O3S
